US09334267B2
6-Bromo-N-(2-methoxyethyl)-7-methylpyrido[2,3-d]pyrimidin-2-amine
Heat a solution of 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidine (2.6 g, 13.6 mmol) and 2-methoxyethanamine (6 mL) with microwave irradiation at 180° C. for 2 h. Cool the mixture to RT, dissolve in EtOAc, wash with water, then brine, dry over Na2SO4 and concentrate under reduced pressure to give N-(2-methoxyethyl)-7-methylpyrido[2,3-d]pyrimidin-2-amine (2.7 g, 91%). Treat a solution of N-(2-methoxyethyl)-7-methylpyrido[2,3-d]pyrimidin-2-amine (2.35 g, 10.7 mmol) in THF (100 mL) portion wise with NBS (1.8 g, 10.7 mmol) and stir at RT for 2 h. Concentrate the reaction mixture to dryness, dissolve in EtOAc, wash with water, then brine, dry the organics over Na2SO4, concentrate and purify by HPLC to afford the title compound (0.55 g, 26%). MS (m/z): 297.0 (M+1+).

reactant | N-(2-methoxyethyl)-7-methylpyrido[2,3-d]pyrimidin-2-amine | 10.7 mmol, 2.35 g | COCCNC=1N=CC2=C(N1)N=C(C=C2)C | C11H14N4O
reactant | NBS | 10.7 mmol, 1.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-Bromo-N-(2-methoxyethyl)-7-methylpyrido[2,3-d]pyrimidin-2-amine | 0.55 g, 26% | BrC1=CC2=C(N=C(N=C2)NCCOC)N=C1C | C11H13BrN4O
